US07524840B2
To a solution of 2.7 g (0.00716 mole) of 5-(2-chlorophenyl)-1,2-dihydro-3,7,8-trimethyl-1-(2-propenyl)-pyrazolo[3,4-b][1,4]benzodiazepine (XIVw), 0.155 g (0.00029 mole) of 1,3-bis(diphenylphosphino)propane nickel (II) chloride and 140 mL of anhydrous tetrahydrofuran at −40° C. was added 43 mL of 1M diisobutylaluminum hydride in toluene. The mixture was stirred at 0° C. for 6 hours and then quenched by the careful addition of ice water. The mixture was extracted twice with ethyl acetate. The combined ethyl acetate extracts were dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with ethyl acetate-dichloromethane (1:1) to give 1.5 g of 5-(2-chlorophenyl)-1,2-dihydro-3,7,8-trimethyl-pyrazolo[3,4-b][1,4]benzodiazepine (IVw) as an orange solid. MH+/Z=337.

reactant | 5-(2-chlorophenyl)-1,2-dihydro-3,7,8-trimethyl-1-(2-propenyl)-pyrazolo[3,4-b][1,4]benzodiazepine | 0.00716 mole, 2.7 g | ClC1=C(C=CC=C1)C1=NC=2C(=NC3=C1C=C(C(=C3)C)C)N(NC2C)CC=C | C22H21ClN4
reactant | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
reactant | diisobutylaluminum hydride | 1M, 43 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | 1,3-bis(diphenylphosphino)propane nickel (II) chloride | 0.00029 mole, 0.155 g | [Ni](Cl)Cl.C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(2-chlorophenyl)-1,2-dihydro-3,7,8-trimethyl-pyrazolo[3,4-b][1,4]benzodiazepine | 1.5 g | ClC1=C(C=CC=C1)C1=NC=2C(=NC3=C1C=C(C(=C3)C)C)NNC2C | C19H17ClN4
